US05580893
N-(2-Nitroxyethyl)-5-bromo-2-furancarboxamide (Exemplified compound No. 24)
Following a similar treatment to that in Example 2 and using 0.68 g of 5-bromo-2-furancarboxylic acid and 0.60 g of nitroxyethylamine nitrate, 0.22 g of the title compound was obtained as pale yellow acicular prisms (solvent for recrystallization; diisopropyl ether).

reactant | 5-bromo-2-furancarboxylic acid | 0.68 g | BrC1=CC=C(O1)C(=O)O | C5H3BrO3
reactant | nitroxyethylamine nitrate | 0.60 g | [N+](=O)(O)[O-].O([N+](=O)[O-])CCN
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-(2-Nitroxyethyl)-5-bromo-2-furancarboxamide | 0.22 g | O([N+](=O)[O-])CCNC(=O)C=1OC(=CC1)Br | C7H7BrN2O5
